US04405789
The operation is as in Example 1, but starting from 11 g of 4-[2-(5-chloro-3-indolyl)-ethyl]-piperidine and 0.21 g of benzyltriethylammonium chloride in suspension in 100 ml of chloroform and 12.5 g of sodium hydroxide in solution in 25 ml of water. 2 g of 3,6-dichloro-4-[2-(4-piperidyl)-ethyl]-quinoline are finally obtained in the form of the dihydrochloride melting at 248° C.

reactant | 4-[2-(5-chloro-3-indolyl)-ethyl]-piperidine | 11 g | ClC=1C=C2C(=CNC2=CC1)CCC1CCNCC1 | C15H19ClN2
reactant | sodium hydroxide | 12.5 g | [OH-].[Na+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
catalyst | benzyltriethylammonium chloride | 0.21 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 25 ml | O | H2O
product | 3,6-dichloro-4-[2-(4-piperidyl)-ethyl]-quinoline | 2 g | ClC=1C=NC2=CC=C(C=C2C1CCC1CCNCC1)Cl | C16H18Cl2N2
